US08669234B2
To the solution of 2-[5-(4-Bromo-3-methoxycarbonyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (200 mg, 0.44 mmol) in THF (4 ml) at −78° C. was added DIBAL-H THF solution (3.33 ml, 3.33 mmol). The mixture was warmed to 25° C. and stirred for 5 hours. The mixture was cooled to 0° C. and quenched with 2.0 N NaOH solution until PH=11. The mixture was extracted with EtOAc. The organic phase was washed with water and brine, and was dried with sodium sulfate. Concentration gave 2-[5-(4-bromo-3-hydroxymethyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester (196 mg). m/z: 421.9 (M+H)+, 420.2 (M−H)−.

reactant | 2-[5-(4-Bromo-3-methoxycarbonyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 0.44 mmol, 200 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC(=C(C=C1)Br)C(=O)OC | C20H24BrN3O4
reactant | DIBAL-H THF | 3.33 mmol, 3.33 ml | CC(C)C[AlH]CC(C)C.C1CCOC1
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-[5-(4-bromo-3-hydroxymethyl-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | 196 mg | C(C)(C)(C)OC(=O)N1C(CCC1)C=1NC(=CN1)C1=CC(=C(C=C1)Br)CO | C19H24BrN3O3
